US05308863
5,6-Dihydro-6-(2-ethoxyethyl)-4-ethylamino-4H-thieno-[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide
To a stirred solution of 4-acetamido-5,6-dihydro-6-(2-ethoxyethyl)-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide (6.8 g, 0.017 mol) in tetrahydrofuran (20 ml) heated under nitrogen to reflux was added borane-methyl sulfide (17 ml, 0.170 mol) dropwise over 1/2 hr. The reaction was heated at reflux for 2 hr. while allowing the methyl sulfide to distill off. Then the mixture was concentrated in vacuo to a yellow gum. Then 6N HCl (30 ml) was added followed by water (30 ml) and the mixture was heated on the steam bath for 1/4 hour. The solution was basified with excess sodium bicarbonate and was extracted with ethyl acetate (300 ml). The aqueous solution was again extracted with ethyl acetate. The combined extracts were washed with saturated sodium chloride, dried, filtered and concentrated in vacuo to obtain a white foam (5.3 g) mixture of cis and trans isomers. Chromatography on silica gel gave 2.28 g of the a-isomer and 0.17 g of the β -isomer.

reactant | 4-acetamido-5,6-dihydro-6-(2-ethoxyethyl)-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide | 0.017 mol, 6.8 g | C(C)(=O)NC1C2=C(S(C(C1)CCOCC)(=O)=O)SC(=C2)S(=O)(=O)N | C13H20N2O6S3
reactant | borane methyl sulfide | 0.170 mol, 17 ml | B.CSC
reactant | methyl sulfide | CSC | C2H6S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5,6-Dihydro-6-(2-ethoxyethyl)-4-ethylamino-4H-thieno-[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide | C(C)OCCC1CC(C2=C(S1(=O)=O)SC(=C2)S(=O)(=O)N)NCC | C13H22N2O5S3
